US07893056B2
To 4-chloro-6-[(3S)-3,4-dimethyl-1-piperazinyl]-5-fluoro-2-methylpyrimidine (0.254 g, 0.98 mmol) in DMSO (3 mL) was added hydrazine monohydrate (2 mL). The reaction was stirred at room temperature for 3 days. The volatiles were removed in vacuo, and the residue was purified by RP-HPLC to provide 4-[(3S)-3,4-dimethyl-1-piperazinyl]-5-fluoro-6-hydrazino-2-methylpyrimidine as a yellow solid (0.161 g, 64%). LCMS: (M+H)+=255.6.

reactant | 4-chloro-6-[(3S)-3,4-dimethyl-1-piperazinyl]-5-fluoro-2-methylpyrimidine | 0.98 mmol, 0.254 g | ClC1=NC(=NC(=C1F)N1C[C@@H](N(CC1)C)C)C | C11H16ClFN4
reactant | hydrazine monohydrate | 2 mL | O.NN
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 4-[(3S)-3,4-dimethyl-1-piperazinyl]-5-fluoro-6-hydrazino-2-methylpyrimidine | 0.161 g, 64% | C[C@H]1CN(CCN1C)C1=NC(=NC(=C1F)NN)C | C11H19FN6
